US04547581
9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine
A mixture of 34.2 g (0.1 mole) of 8-chloro-3,4-dihydro-1-(2-fluorophenyl)-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one, 62.4 g (0.6 mole) of formamidine acetate, and 35 g (0.63 mole) of sodium methoxide in 700 ml of methanol was stirred at room temperature for 3 hr, while bubbling nitrogen through the solution. The mixture was diluted with water and extracted with methylene chloride. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to give a red oil. The oil was suspended in boiling hexane and the hexane solution decanted. Upon cooling the end product was collected by filtration. Recrystallization from cyclohexane gave off-white crystals, mp 123°-125° C.

reactant | 8-chloro-3,4-dihydro-1-(2-fluorophenyl)-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one | 0.1 mole, 34.2 g | ClC1=CC2=C(C(C(CN=C2C2=C(C=CC=C2)F)=CN(C)C)=O)C=C1 | C19H16ClFN2O
reactant | formamidine acetate | 0.6 mole, 62.4 g | C(C)(=O)O.C(=N)N
reactant | sodium methoxide | 0.63 mole, 35 g | C[O-].[Na+]
reactant | hexane | CCCCCC | C6H14
solvent | methanol | 700 ml | CO | CH4O
product | 9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)F)C=NC=N3)C=C1 | C18H11ClFN3
